US08791130B2
Step 1: 6-Chloro-4-methoxypyridin-3-amine
A mixture of 2-chloro-4-methoxy-5-nitropyridine (208 mg, 1.10 mmol), ammonium chloride (295 mg, 5.52 mmol) and iron powder (246 mg, 4.41 mmol) in ethanol (5 mL) and water (0.5 mL) was heated at 80° C. for 18 h. The mixture was cooled and filtered through a Celite cartridge and washed through with methanol. The combined filtrate and washing was evaporated, and the residue partitioned between DCM (10 mL) and water (10 mL), the organic phase was washed further with water (10 mL), and the aqueous washes were combined and extracted with DCM (3×5 mL). The organic extracts were combined and filtered through a hydrophobic frit, and the solvent was removed by evaporation to give the product as an off-white solid (155 mg, 89%). 1H NMR (400 MHz, CDCl3): δ 7.73 (s, 1H); 6.71 (s, 1H); 3.90 (s, 3H); 3.71 (s, 2H).

reactant | 2-chloro-4-methoxy-5-nitropyridine | 1.10 mmol, 208 mg | ClC1=NC=C(C(=C1)OC)[N+](=O)[O-] | C6H5ClN2O3
reactant | ammonium chloride | 5.52 mmol, 295 mg | [Cl-].[NH4+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 0.5 mL | O | H2O
catalyst | iron | 4.41 mmol, 246 mg | [Fe] | Fe
product | 6-Chloro-4-methoxypyridin-3-amine | 155 mg, 89% | ClC1=CC(=C(C=N1)N)OC | C6H7ClN2O
